US07067517B2
Methyl-phenyl-carbamic acid 4-(2-oxo-2H-pyridin-1-ylmethyl)-phenyl ester
The title compound was prepared in 66% yield as an oil using methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester and 2-hydroxypyridine. 1H NMR (400 MHz; CDCl3): δ 3.42 (br s, 3H), 5.12 (s, 2H), 6.13 (t, 1H), 6.60 (d, 1H), 7.10 (br s, 2H), 7.22–7.41 (m, 9H); HPLC-MS: m/z=335.2 (M+1); Rt=2.97 min.

reactant | methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester | OCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C15H15NO3
reactant | 2-hydroxypyridine | OC1=NC=CC=C1 | C5H5NO
product | Methyl-phenyl-carbamic acid 4-(2-oxo-2H-pyridin-1-ylmethyl)-phenyl ester | 66% yield | O=C1N(C=CC=C1)CC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C20H18N2O3
